US08895580B2
Step 2: Preparation of 5-ethyl-2-(2-fluorophenyl)-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one
2-(2-Fluorophenyl)-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one (51 mg, 0.18 mmol) was dissolved in dimethylsulfoxide (1 mL) and treated with iodoethane (0.018 mL, 0.22 mmol, 1.2 equiv) and potassium carbonate (30 mg, 0.22 mmol, 1.2 equiv). The mixture was stirred at ambient temperature for 14 hours, filtered and purified by preparative reverse phase HPLC (82:20 to 5:95; water containing 0.1% trifluoroacetic acid:acetonitrile containing 0.1% trifluoroacetic acid), providing the titled compound: 1H-NMR (400 MHz, CDCl3) δ 8.78 (1H, s), 8.48 (1H, dd, J=8.0, 1.5 Hz), 7.74-7.58 (4H, m), 7.42-7.36 (1H, m), 7.29-7.23 (2H, m), 4.44 (1H, q, J=7.4 Hz), 1.64 (3H, t, J=7.2 Hz) ppm; low resolution mass spectrometry (ES+) m/z 308.0 [(M+H)+; calculated for C18H15FN3O: 308.1].

reactant | 2-(2-Fluorophenyl)-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one | 0.18 mmol, 51 mg | FC1=C(C=CC=C1)N1N=C2C(=CNC=3C=CC=CC23)C1=O | C16H10FN3O
reactant | iodoethane | 0.22 mmol, 0.018 mL, 1.2 equiv | ICC | C2H5I
reactant | potassium carbonate | 0.22 mmol, 30 mg, 1.2 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 1 mL | CS(=O)C | C2H6OS
product | 5-ethyl-2-(2-fluorophenyl)-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one | C(C)N1C=C2C(C=3C=CC=CC13)=NN(C2=O)C2=C(C=CC=C2)F | C18H14FN3O
